US04263293
(C) (±)-2-[(Acetylthio)methyl]-4-methyl-N-[2-(4-morpholinyl)ethyl]pentanamide
2-[(Acetylthio)methyl]-4-methylpentanoic acid (2.0 g) is dissolved in 40 ml of tetrahydrofuran (THF) and 1.0 g of triethylamine. This solution is cooled to -5° C. and ethyl chloroformate in 5 ml of THF is added dropwise. The reaction mixture is stirred at -5° C. for 20 minutes and then N-(2-aminoethyl)morpholine [1.3 g] in 20 ml of THF is added dropwise. It is stirred at 20° C. for 4 hours and stored at 0° C. for about 16 hours. Triethylamine hydrochloride is filtered off and the filtrate is concentrated in vacuo. This residue is dissolved in ether and washed once with aqueous NaHCO3 and twice with water. The ether is dried with MgSO4, filtered and concentrated in vacuo to yield 1.6 g of material. This is purified by dissolving 0.6 g in 2 ml of ether and placing it on top of a pad of alumina (activity II 10 g). The column is washed through with 250 ml of ether which is concentrated in vacuo. Product crystallizes and is washed with 1:5 ether-pentane. The remainder of the crude is seeded with a small crystal and then washed with 1:5 ether-pentane. Total yield is 1.0 g of the title compound, melting point 54°-59° C.

reactant | 2-[(Acetylthio)methyl]-4-methylpentanoic acid | 2.0 g | C(C)(=O)SCC(C(=O)O)CC(C)C | C9H16O3S
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | N-(2-aminoethyl)morpholine | 1.3 g | NCCN1CCOCC1 | C6H14N2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | (±)-2-[(Acetylthio)methyl]-4-methyl-N-[2-(4-morpholinyl)ethyl]pentanamide | 1.6 g | C(C)(=O)SCC(C(=O)NCCN1CCOCC1)CC(C)C | C15H28N2O3S
